************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_OR2_N1
* View Name:     schematic
* Netlisted on:  Feb 23 11:30:29 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/rules_N1/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_OR2_N1
* View Name:    schematic
************************************************************************

.SUBCKT G3_OR2_N1 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI4 Z Vss net21 Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI3 Z Vdd net21 Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI1 net21 Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI2 net21 Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI0 net21 Vss B A Vdd / TIGFET_PCELL_SP15CP15_N1
.ENDS

